US04937343
Preparation of 2-(4-(4-(2-pyrimidinyl)-1-piperazinyl)butyl)-6-acetamido-1,2-benzisothiazol-3(2H)one 1,1-dioxide
200 ml of acetic anhydride are added to 0.06 mol of 2-(4-(4-(2-pyrimidinyl)-1-piperazinyl)butyl)-6-amino-1,2-benzoisothiazol-3(2H)one 1,1-dioxide, and the mixture is stirred at room temperature for 12 hours. It is then evaporated to dryness, isopropyl ether is added and the mixture is stirred for 1 hour. It is then filtered and the colourless crystals are dried in vacuo.

reactant | 2-(4-(4-(2-pyrimidinyl)-1-piperazinyl)butyl)-6-amino-1,2-benzoisothiazol-3(2H)one 1,1-dioxide | 0.06 mol | N1=C(N=CC=C1)N1CCN(CC1)CCCCN1S(C2=C(C1=O)C=CC(=C2)N)(=O)=O | C19H24N6O3S
reactant | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(4-(4-(2-pyrimidinyl)-1-piperazinyl)butyl)-6-acetamido-1,2-benzisothiazol-3(2H)one 1,1-dioxide | N1=C(N=CC=C1)N1CCN(CC1)CCCCN1S(C2=C(C1=O)C=CC(=C2)NC(C)=O)(=O)=O | C21H26N6O4S
